US07495007B2
Preparation of intermediate E/Z-6-chloro-3-(2,5-dichloro-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester
In a manner similar to the method described in Example 227c, E/Z-6-Chloro-3-(2,5-dichloro-benzylidene)-1,3-dihydro-indol-2-one (10 g, 30.9 mmol) was reacted with ditert-butyl-dicarbonate (8.1 g, 37.1 mmol) and DMAP (0.38 g, 3.09 mmol) in CH2Cl2 to give title compound as a yellow oil (7.5 g).

reactant | Z-6-Chloro-3-(2,5-dichloro-benzylidene)-1,3-dihydro-indol-2-one | 30.9 mmol, 10 g | ClC1=CC=C2/C(/C(NC2=C1)=O)=C/C1=C(C=CC(=C1)Cl)Cl | C15H8Cl3NO
reactant | ditert-butyl-dicarbonate | 37.1 mmol, 8.1 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | DMAP | 3.09 mmol, 0.38 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Z-6-chloro-3-(2,5-dichloro-benzylidene)-2-oxo-2,3-dihydro-indole-1-carboxylic acid tert-butyl ester | 7.5 g | C(C)(C)(C)OC(=O)N1C(\C(\C2=CC=C(C=C12)Cl)=C/C1=C(C=CC(=C1)Cl)Cl)=O | C20H16Cl3NO3
